US05677316
Ethyl (R)-3-benzylcarbamoyl-1-((S)-α-methylbenzyl)-5-oxopyrrolidine-3-carboxylate
(R)-3-Ethoxycarbonyl-1-((S)-α-methylbenzyl)-5-oxopyrrolidine-3-carboxylic acid (10 g) was dissolved in tetrahydrofuran (100 ml). Hydroxybenztriazole (0.89 g) was added and the mixture was stirred. Dicyclohexylcarbodiimide (6.76 g) and benzylamine (3.86 g) were added under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was allowed to stand for 2 days and filtered through Celite. The filtrate was concentrated under reduced pressure. Ethyl acetate was added, and the mixture was washed with an aqueous solution of potassium carbonate, water, dilute hydrochloric acid and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The obtained oil was purified by silica gel column chromatography (developing solvent, n-hexane:ethyl acetate=4:1) to give the object compound as a pale yellow oil.

reactant | (R)-3-Ethoxycarbonyl-1-((S)-α-methylbenzyl)-5-oxopyrrolidine-3-carboxylic acid | 10 g | C(C)OC(=O)[C@]1(CN(C(C1)=O)[C@H](C1=CC=CC=C1)C)C(=O)O | C16H19NO5
reactant | Hydroxybenztriazole | 0.89 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | Dicyclohexylcarbodiimide | 6.76 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzylamine | 3.86 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl (R)-3-benzylcarbamoyl-1-((S)-α-methylbenzyl)-5-oxopyrrolidine-3-carboxylate | C(C1=CC=CC=C1)NC(=O)[C@@]1(CN(C(C1)=O)[C@H](C1=CC=CC=C1)C)C(=O)OCC | C23H26N2O4
